US05817693
a) 2-(3,4-Methylenedioxybenzoyl)benzoic acid
To a solution of 2-bromobenzoic acid (12 g, 0.06 mol) in THF (200 ml) at -100° C. under an argon atmosphere was added dropwise n-butyl lithium (50 ml of 2.5M solution in hexanes, 0.125 mol), maintaining the temperature below -90° C. Upon completion of the addition, the resulting solution was stirred at -100° C. for 1 h, at which time was added slowly a solution of piperonylic acid chloride (11 g, 0.06 mol) in THF (50 ml), maintaining the temperature below -90° C. The resulting mixture was allowed to warm to -80° C. and stirred for 1 h, then was allowed to slowly warm to room temperature and left to stand for 48 h. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between Et2O and 1M HCl. The organic phase was extracted with 10% aqueous NaOH. The NaOH extract was acidified with concentrated HCl, and the combined aqueous material was extracted with Et2O. The Et2O extract was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with a solvent gradient of 10-30% EtOAc/0.1% HOAc/hexanes to afford the title compound as an off-white solid (4.5 g, 28%).

reactant | 2-bromobenzoic acid | 0.06 mol, 12 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | n-butyl lithium | 0.125 mol, 2.5M, 50 ml | C(CCC)[Li]
reactant | piperonylic acid chloride | 0.06 mol, 11 g | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(3,4-Methylenedioxybenzoyl)benzoic acid | 4.5 g, 28% | C1OC=2C=C(C(=O)C3=C(C(=O)O)C=CC=C3)C=CC2O1 | C15H10O5
